US07723368B2
Step 2) 1-(1-Fluoro-pent-4-enyl)-3-iodo-benzene
To a stirred solution of 1-(3-Iodo-phenyl)-pent-4-en-1-ol (0.51 g, 1.77 mmol), in dry methylene chloride (10 mL) at −78° C. and under a nitrogen atmosphere was added DAST (0.28 mL, 2.1 mmol). The cooling bath was removed and the mixture was warmed to room temperature for 1 h, and then quenched with sat sodium bicarbonate (4 mL). The mixture was partitioned between methylene chloride and H2O, and the aqueous layer was extracted with methylene chloride (2×10 mL). The organic layer was washed with brine and dried over MgSO4, filtered and concentrated in vacuo to a clear oil (0.46 g, 90%) and used directly in the next step.

reactant | 1-(3-Iodo-phenyl)-pent-4-en-1-ol | 1.77 mmol, 0.51 g | IC=1C=C(C=CC1)C(CCC=C)O | C11H13IO
reactant | DAST | 2.1 mmol, 0.28 mL | CCN(CC)S(F)(F)F | C4H10F3NS
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | 1-(1-Fluoro-pent-4-enyl)-3-iodo-benzene | FC(CCC=C)C1=CC(=CC=C1)I | C11H12FI
